US07456164B2
4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N,N-dimethyltetrahydro-2H-pyran-4-carboxamide
4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid (150 mg, 3.9 mmol), O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (222 mg, 5.8 mmol), dimethylamine hydrochloride (96 mg, 1.1 mmol), pyridine (126 uL, 1.56 mmol) were combined and dissolved in dimethylformamide (2 mL). The reaction mixture was stirred at ambient temperature for 18 hours. Further O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (222 mg, 5.8 mmol) and dimethylamine in ethanol (33%) (500 μL) was added and the reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was diluted with water (20 mL) and was then extracted with ethyl acetate (2×40 mL). The combined organic extracts were dried using Na2SO4, filtered and concentrated in vacuo. The compound was purified by column chromatography on silica gel, eluting with dichloromethane:methanol:ammonia (97:3:0.3) to dichloromethane:methanol:ammonia (90:10:1) to give a compound as a clear colourless oil. This was dissolved in ethyl acetate (70 mL) and washed with saturated NaHCO3 solution (2×10 mL). The organic extract was dried using Na2SO4, filtered and concentrated in vacuo to give the title compound as a clear crystalline solid (72 mg, 50%). 1H NMR (400 MHz, CD3OD) δ7.2 (d, 2H), 6.95 (d, 2H), 4.4 (m, 1H), 3.85 (m, 2H), 3.7 (m, 2H), 2.9-2.5 (m, 11H), 2.28 (m, 2H), 2.0 (m, 4H), 1.8 (m, 2H), 1.1 (d, 6H)

reactant | 4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid | 3.9 mmol, 150 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C20H29NO4
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 5.8 mmol, 222 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | dimethylamine hydrochloride | 1.1 mmol, 96 mg | Cl.CNC
reactant | pyridine | 1.56 mmol, 126 uL | N1=CC=CC=C1 | C5H5N
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 5.8 mmol, 222 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 500 μL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N,N-dimethyltetrahydro-2H-pyran-4-carboxamide | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)N(C)C | C22H34N2O3
